US07071175B1
2-Amino-5-bromopyrimidine (9.00 g, 51.7 mmol) in THF/tert-butanol (1:1, 100 mL) was treated with di-tert-butyl dicarbonate (34.0 g, 156.0 mmol) and DMAP (3.00 g, 24.5 mmol). The reaction mixture was left at ambient temperature overnight and concentrated under reduced pressure. The residue was partitioned between dichloromethane and water and pH was adjusted to 4 with 1 M HCl. The solution was extracted with dichloromethane, dried and concentrated under reduced pressure. The crude product was suspended in hexane and filtered to yield 2-[N,N-bis(tert-butoxycarbonyl)amino)-5-bromopyrimidin (15.0 g,:77%).

reactant | 2-Amino-5-bromopyrimidine | 51.7 mmol, 9.00 g | NC1=NC=C(C=N1)Br | C4H4BrN3
reactant | di-tert-butyl dicarbonate | 156.0 mmol, 34.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF tert-butanol | 100 mL | C1CCOC1.C(C)(C)(C)O
catalyst | DMAP | 24.5 mmol, 3.00 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-[N,N-bis(tert-butoxycarbonyl)amino)-5-bromopyrimidin | 15.0 g, 77% | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=NC=C(C=N1)Br | C14H20BrN3O4
